US08039460B2
Step E: Benzyl 4-(3-oxo-6-phenyl-2,3-dihydropyridazin-4-yl)piperidine-1-carboxylate
Copper(II) chloride (anhydrous; 1.27 g, 9.45 mmol) was added to a solution of benzyl 4-(3-oxo-6-phenyl-2,3,4,5-tetrahydropyridazine-4-yl)piperidine-1-carboxylate (1.85 g, 4.73 mmol) in acetonitrile (16 mL). The reaction mixture was heated to 90° C. After 2 h, the mixture was allowed to cool to ambient temperature and concentrated. Dichloromethane was added to the concentrated mixture, followed by hydrochloric acid (1 N in water). The mixture was extracted with dichloromethane (3×) and the combined organic extracts were dried over magnesium sulfate and concentrated. Purification by silica gel chromatography (100% dichloromethane→90% dichloromethane/methanol) gave the title compound (1.1 g). MS 390.1 (M+1).

reactant | benzyl 4-(3-oxo-6-phenyl-2,3,4,5-tetrahydropyridazine-4-yl)piperidine-1-carboxylate | 4.73 mmol, 1.85 g | O=C1NN=C(CC1C1CCN(CC1)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C23H25N3O3
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
catalyst | Copper(II) chloride | 9.45 mmol, 1.27 g | [Cu](Cl)Cl
product | Benzyl 4-(3-oxo-6-phenyl-2,3-dihydropyridazin-4-yl)piperidine-1-carboxylate | 1.1 g | O=C1NN=C(C=C1C1CCN(CC1)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C23H23N3O3
